US08809529B2
8-benzyl-6-phenyl-2-(thiophen-2-ylmethyl)imidazo[1,2-a]pyrazin-3(7H)-one:
Synthesized from method C using 2-oxo-3-(thiophen-2-yl)propanoic acid and 3-benzyl-5-phenylpyrazin-2-amine as starting materials. 1H NMR (300 MHz, dmso) δ 8.85 (s, 1H), 7.99 (d, J=6.8, 2H), 7.63-7.02 (m, 10H), 6.94 (dd, J=3.5, 5.1, 1H), 4.62 (s, 2H), 4.58 (s, 2H), 2.69 (contaminate); exact mass calculated for C24H20N3OS+ m/z+ 398.13, found m/z+ 398.

reactant | 2-oxo-3-(thiophen-2-yl)propanoic acid | O=C(C(=O)O)CC=1SC=CC1 | C7H6O3S
reactant | 3-benzyl-5-phenylpyrazin-2-amine | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=CC=C1)N | C17H15N3
product | 8-benzyl-6-phenyl-2-(thiophen-2-ylmethyl)imidazo[1,2-a]pyrazin-3(7H)-one | C(C1=CC=CC=C1)C1=C2N(C=C(N1)C1=CC=CC=C1)C(C(=N2)CC=2SC=CC2)=O | C24H19N3OS
